US07875753B2
Methyl 2-bromo-4-chloro-6-ethylphenylacetate
To a solution of 15.8 g [0.04 mol] of 1-bromo-2-(2′-bromo-2′,2′-dichloroethyl)-5-chloro-3-ethylbenzene in 35 ml of methanol is added dropwise, at 10-20° C., 43 g of a 30% solution of NaOMe in MeOH [0.24 mol]. The mixture is subsequently heated to reflux for 5 hours, then cooled to room temperature, 12.3 g of conc. sulphuric acid are added and the mixture is heated again to reflux for 2 hours. The reaction mixture is cooled to room temperature and then metered in portions into a suspension of 12.7 g of NaHCO3 in 80 ml of water, stirred with 50 ml of methylene chloride and filtered through silica gel, and the filtercake is washed three times with 20 ml each time of methylene chloride. The combined organic phases are extracted by shaking with 20 ml of water and then 20 ml of saturated aqueous NaCl solution, dried over sodium sulphate and concentrated under reduced pressure. This gives 11.55 g of methyl 2-bromo-4-chloro-6-ethylphenylacetate (99% of theory).

reactant | 1-bromo-2-(2′-bromo-2′,2′-dichloroethyl)-5-chloro-3-ethylbenzene | 0.04 mol, 15.8 g | BrC1=C(C(=CC(=C1)Cl)CC)CC(Cl)(Cl)Br | C10H9Br2Cl3
reactant | NaOMe | C[O-].[Na+]
reactant | sulphuric acid | 12.3 g | S(O)(O)(=O)=O | H2O4S
reactant | NaHCO3 | 12.7 g | C(=O)(O)[O-].[Na+]
solvent | methanol | 35 ml | CO | CH4O
solvent | water | 80 ml | O | H2O
solvent | MeOH | 0.24 mol | CO | CH4O
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | Methyl 2-bromo-4-chloro-6-ethylphenylacetate | BrC1=C(C(=CC(=C1)Cl)CC)CC(=O)OC | C11H12BrClO2
